US06331539B1
2-Thiophenesulfonyl chloride (0.3 g in 10 ml dichloromethane, 1.6 mmol) was added dropwise to a stirring solution of 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinoline-4-amine (0.5 g, 1.6 mmol), dichloromethane (40 ml), and pyridine (0.8 ml). The reaction was maintained at room temperature for a few hours and then an additional portion of 2-thiophenesulfonyl chloride (0.1 g, 0.6 mmol) was added. The reaction was maintained overnight and then concentrated in vacuo. The resulting residue was purified by flash column chromatography (silica gel, 9:1 dichloromethane/methanol) and the fractions containing product were washed with saturated aqueous sodium bicarbonate. The organic layer was dried (MgSO4), filtered, and concentrated to provide 0.2 g of N2-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-thiophenesulfonamide as an off white powder, m.p. 137.5-141.5° C. 1H NMR (300 MHz, DMSO-d6) δ 8.00 (d, J=8.0 Hz, 1H), 7.89 (dd, J=5.0, 1.3 Hz, 1H), 7.83 (broad s, 1H), 7.61 (dd, J=8.3, 1.1 Hz, 1H), 7.54 (dd, J=3.7, 1.3 Hz, 1H), 7.42 (t, J=7.2 Hz, 1H), 7.25 (m, 1H), 7.15 (m, 1H), 6.44 (broad s, 2H), 4.47 (t, J=7.4 Hz, 2H), 2.87 (m, 4H), 1.80 (m, 4H), 1.58-1.38 (m, 4H), 6.44 (t, J=7.4 Hz, 3H); IR (KBr) 3467, 3361, 3167, 3091, 2957, 2933, 2870, 1644, 1617, 1585, 1533, 1478, 1405, 1336, 1154, 1095, 1014, 854, 761, 733 cm−1; MS (EI) m/e 457.1606 (457.1606 calcd for C22H27N5O2S2); Anal calcd for C22H27N5O2S2: C, 57.74; H, 5.95; N, 15.30. Found: C, 57.50; H, 5.98; N, 15.15.

reactant | 2-Thiophenesulfonyl chloride | 1.6 mmol, 10 ml, 0.3 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinoline-4-amine | 1.6 mmol, 0.5 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
reactant | 2-thiophenesulfonyl chloride | 0.6 mmol, 0.1 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
product | N2-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-thiophenesulfonamide | 0.2 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C=2SC=CC2)CCCC | C22H27N5O2S2
